US05006658
6-Chloro-2-methylpyridine (20 g), (Ex Aldrich), N-bromosuccinimide (31 g), benzoyl peroxide (570 mg) and tetrachloromethane (250 ml) were heated together under reflux and under irradiation from a powerful lamp for 6 hours. After standard work-up and purification by column chromatography (silica; 5% ether in hexane), 6-chloro-2-bromomethylpyridine (25 g,) was obtained.

reactant | 6-Chloro-2-methylpyridine | 20 g | ClC1=CC=CC(=N1)C | C6H6ClN
reactant | N-bromosuccinimide | 31 g | BrN1C(CCC1=O)=O | C4H4BrNO2
catalyst | benzoyl peroxide | 570 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | tetrachloromethane | 250 ml | ClC(Cl)(Cl)Cl | CCl4
product | 6-chloro-2-bromomethylpyridine | 25 g | ClC1=CC=CC(=N1)CBr | C6H5BrClN
